US07989438B2
Step 5: 6-{[{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}(methyl)amino]methyl}-13-cyclohexyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-10-carboxylic acid
Methyl 13-cyclohexyl-6-formyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-10-carboxylate was dissolved in MeOH (0.09M) and HOAc was added. N,N′-dimethylethylendiamine (4 eq) was added and the mixture was stirred for 5 min. NaCNBH3 (1.5 eq) was added and the mixture was stirred overnight. All volatiles were then evaporated in vacuo and the residual material was dissolved in EtOAc. The solution was extracted with sat. aq. NH4Cl, sat. aq. NaHCO3 and brine. After drying over Na2SO4 all volatiles were evaporated in vacuo. The crude residue of methyl 13-cyclohexyl-5-methyl-6-({methyl[2-(methylamino)ethyl]amino}methyl)-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-10-carboxylate was dissolved in dioxane (0.05M) and di-tert-butyl dicarbonate2O (2 eq) was added. The mixture was stirred for 1 h. All volatiles were then evaporated in vacuo and the residual material was taken up in EtOAc. The solution was extracted with sat. aq. NH4Cl, sat. aq. NaHCO3 and with brine. After drying over Na2SO4 all volatiles were evaporated in vacuo. The residual material was filtered through a pad of silica gel (PE:EtOAc, 7:3). After evaporation of the solvents, the crude mixture of methyl 6-{[{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-(methyl)amino]methyl}-13-cyclohexyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-10-carboxylate was dissolved in dioxane (0.05M) and 1M KOH solution (2 eq) was added. The mixture was warmed to 60° C. After 12 h, EtOAc was added and the mixture was extracted with 10% aqueous citric acid solution and brine. After drying the organic phase over Na2SO4 all volatiles were evaporated in vacuo. The residual solid (6-{[{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-(methyl)amino]methyl}-13-cyclohexyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-10-carboxylic acid) was used without further purification in the next reaction (67% over 3 steps). (ES+) m/z 575 (M+H)+.

reactant | Methyl 13-cyclohexyl-6-formyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-10-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(N(C3=C(C21)C=CC=C3)C)C=O)C(=O)OC | C26H28N2O3
reactant | N,N′-dimethylethylendiamine | 4 eq | CNCCNC | C4H12N2
reactant | NaCNBH3 | 1.5 eq | [BH3-]C#N.[Na+]
reactant | KOH | 1M, 2 eq | [OH-].[K+]
reactant | MeOH | 0.09M | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HOAc | CC(=O)O | C2H4O2
product | 6-{[{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}(methyl)amino]methyl}-13-cyclohexyl-5-methyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-10-carboxylic acid | C(C)(C)(C)OC(=O)N(CCN(C)CC1N(C2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C)C | C34H46N4O4
